US06444668B1
A mixture of 6-bromo-8-fluoro-4,4-dimethyl-dihydro-benzo[d][1,3]oxazin-2-one (0.176 g, 0.64 mmol), 4-fluoro-3-chlorophenyl boronic acid (0.15 g, 0.84 mmol), tetrakis(triphenylphosphine)-palladium (0) (0.04 g, 0.032 mmol), and sodium carbonate (0.20 g, 1.92 mmol) in DME (10 mL) and water (5 mL) was subject to a blanket of nitrogen for 15 minutes at 50° C. and then was heated at 85° C. for 1 hour. The reaction mixture was cooled to room temperature and ethyl acetate (100 mL) was added. The organic layer was washed twice with aqueous ammonium chloride (100 mL) and once with brine (100 mL), dried over magnesium sulfate and concentrated. The residue was purified via chromatography (silica gel, 25% ethyl acetate/hexane) to give 6-(3-chloro-4-fluoro-phenyl)-8-fluoro-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]-oxazin-2-one as a white solid ((0.13 g, 66%): mp 246-248° C.; 1H-NMR (DMSO-d6) δ10.5 (s, 1H), 8.00 (dd, 1H, J=7.09, 2.32 Hz), 7.78-7.73 (m, 1H), 7.62 (dd, 1H, J=11.86, 1.77 Hz), 7.7 (t, 2H, J=9 Hz), 1.7 (s, 6H); MS (APCI) m/z 324 ([M+H]+, 100%); Anal. Calc. For C16H12F2NO2 0.5 H2O C, 57.76, H, 3.94, N, 4.21. Found: C, 57.49, H, 3.69, N, 4.03.

reactant | 6-bromo-8-fluoro-4,4-dimethyl-dihydro-benzo[d][1,3]oxazin-2-one | 0.64 mmol, 0.176 g | BrC=1CC2C(NC(OC2(C)C)=O)=C(C1)F | C10H11BrFNO2
reactant | 4-fluoro-3-chlorophenyl boronic acid | 0.84 mmol, 0.15 g | FC1=C(C=C(C=C1)B(O)O)Cl | C6H5BClFO2
reactant | sodium carbonate | 1.92 mmol, 0.20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.032 mmol, 0.04 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-(3-chloro-4-fluoro-phenyl)-8-fluoro-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]-oxazin-2-one | ClC=1C=C(C=CC1F)C1=CC2=C(NC(OC2(C)C)=O)C(=C1)F | C16H12ClF2NO2
